US09290468B2
Step 2: 5-(4-bromo-2-chlorophenyl)-7-(cyclopropylsulfonyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one
To a solution of 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one (100 mg, 0.25 mmol) in CH2Cl2 (10 mL) was added triethylamine (76 mg, 0.75 mmol) at 0° C. followed by cyclopropanesulfonyl chloride (53 mg, 0.38 mmol) and DMAP (10 mg). The mixture was stirred at room temperature for 1 h and washed with saturated NaHCO3 (aq.). The aqueous layer was extracted with CH2Cl2 (15 mL×2). The combined organic phase was washed with water (15 mL) and brine (20 mL) successively, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (petroleum ether/ethyl acetate, 5:1, v/v) to give the corresponding product (120 mg, 95.1% yield). 1H NMR (400 MHz, CDCl3): δ 8.67 (s, 1H), 7.99 (s, 1H), 7.91 (d, 1H), 7.73 (d, 1H), 7.50 (m, 1H), 3.37 (m, 1H), 1.70 (m, 2H), 0.93 (m, 2H).

reactant | 5-(4-bromo-2-chlorophenyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 0.25 mmol, 100 mg | BrC1=CC(=C(C=C1)N1C(NC2=CC3=C(N=CS3)C(=C21)F)=O)Cl | C14H6BrClFN3OS
reactant | triethylamine | 0.75 mmol, 76 mg | C(C)N(CC)CC | C6H15N
reactant | cyclopropanesulfonyl chloride | 0.38 mmol, 53 mg | C1(CC1)S(=O)(=O)Cl | C3H5ClO2S
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-(4-bromo-2-chlorophenyl)-7-(cyclopropylsulfonyl)-4-fluoro-5H-imidazo[4′,5′:4,5]benzo[1,2-d]thiazol-6(7H)-one | 120 mg, 95.1% yield | BrC1=CC(=C(C=C1)N1C(N(C2=CC3=C(N=CS3)C(=C21)F)S(=O)(=O)C2CC2)=O)Cl | C17H10BrClFN3O3S2
